*AD8676_A SPICE Macro-model Typical Values at Vs=±15V
* Description: Amplifier
* Generic Desc: 10/30V, BIP, OP, Low Noise, RRO, 1X
* Developed by: RM, ADSiV apps
* Revision History: 08/10/2012 - Updated to new header style
* 1.01 (05/2007)
* Copyright 2007, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node Assignments
*		        noninverting input
*	            	|	inverting input
*		        |	|	positive supply
*		        |	|	|	negative supply
*		        |	|	|	|	output
*		        |	|	|	|	|
*		        |	|	|	|	|
.SUBCKT AD8676_A	1 	2 	99 	50 	45 
*
*INPUT STAGE
*
Q1   15  7 5 NIX
Q2   6  2 5 NIX
*RE1 501 5 1.731E+03
*RE2 502 5 1.731E+03
IOS  1  2 500E-12
I1  5 50 1E-03
V5 5 9 0.3
D9 50 9 Dx
EOS  7  1 POLY(4) (14,98) (73,98) (81,98) (70,98)  10E-6 1 1 1 1
RC1  15 11 6E3
RC2  6  11 6E3
V6 10 11 0.3
D10 99 10 Dx
C1   6  15 2.3E-13
* CMRR=130dB
*
ECM   13 98 POLY(2) (1,98) (2,98) 0 0.0074 0.0074
RCM1  13 14 1.59E2
RCM2  14 98 2.27E-3
CCM1  13 14 1E-6
*
* PSRR=135dB
*
RPS3 72 73 1.59E+2
RPS4 73 98 5E-5
CPS3 72 73 1E-6
EPSY 98 72 POLY(1) (99,50) 0 0.56234
*
* VOLTAGE NOISE REFERENCE OF 2.8nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 2.6
RN2 81 98 1
*flicker noise 
*
D5 69 98 DNOISE
VSN 69 98 DC 0.6551
H1 70 98 VSN 12
RN 70 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50  (99,50) 27E-6  
*
* POLE AT 20MHz, ZERO AT 60MHz
*
G1 98 21 (15,6) 5.84E-6
R1 21 98 200E3
R2 21 22 85E3
C2 22 98 40E-15
D3  21 99 DX
D4  50 21 DX
*
* GAIN STAGE
*
G2  98 25 (21,98) 2E-5
R5  25 98 1.64E+10
CF  45 25 3E-11
EVP  97 98 (99,50) 0.5
D6  32 97 DX
V3   32 25 0.3
EVN  51 98 (50,99) 0.5
D7   51 33 DX
V4   25 33 0.3
*
* OUTPUT STAGE
*
Q3   45	41 99 QOP 1
Q4   45	43 50 QON 1
EG1  99 40 POLY(1) (98,25) 0.68515  1
EG2  42 50 POLY(1) (25,98) 0.68515  1
RB1  40 41 5000
RB2  42 43 200
*
* MODELS
*
.MODEL NIX NPN (BF=71429,IS=1E-15)
.MODEL QOP PNP (BF=200,VA=200,IS=1E-15,RC=260)
.MODEL QON NPN (BF=200,VA=200,IS=1E-15,RC=50)
.MODEL DC D(IS=130E-15)
.MODEL DX D(IS=1E-16,CJO=1E-16)
.MODEL DNOISE D(IS=1E-16,RS=0,KF=1E-14)
*
.ENDS AD8676_A